### PR TITLE
contra tactic and helper lemmas (in boolp.v)

### PR DESCRIPTION
**Pull request by Tragicus**
##### Things done/to do

Ports some work by Georges Gonthier on a tactic for proofs by contraposition.
It will need some testing, some discussion (at least regarding the `TOTHINK`s) and maybe some cleanup.
The CHANGELOG has *not* been updated and neither has the documentation been written.

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
The changelog has been compromised.

**Comment by CohenCyril** [comment]
Looks good! Thanks for porting this.

I would not document "internals" of the tactic in the changelog, just the API.
It would be nice to hide all internal definitions in a module, so that when the feature comes where we can make modules private or exclude them from search, the internal definitions do not show up.

File: classical/contra.v [hunk 1]
```diff
@@ -0,0 +1,814 @@
...
+(*   As with assume_not, contra allows both assumption and conclusion to be   *)
+(* in Type, simplifies the negation of both assumption and conclusion, and    *)
+(* exposes the constructive contents of the negated conclusion.               *)
+(*   The contra tactic also supports a limited form of the ':' discharge      *)
+(* pseudo tactical, whereby contra: <d-items> means move: <d-items>; contra.  *)
+(* The only <d-items> allowed are one term, possibly preceded by a clear      *)
+(* switch.                                                                    *)
+(******************************************************************************)
+
+Ltac contrapose := apply: Internals.contra_Type; apply: contra_notP => /lax_witness.
```
Comment (proux01) [inline classical/contra.v:786]:
```suggestion
Ltac contrapose :=
  apply: Internals.contra_Type;
  apply: Internals.contra_notP => /Internals.lax_witness.
```

File: classical/contra.v [hunk 2]
```diff
@@ -0,0 +1,814 @@
...
+(* absurd_not == proof by contradiction. Same as assume_not, but the goal is  *)
+(*               erased and replaced by False.                                *)
+(*               Caveat: absurd_not cannot be used as a move/ view because    *)
+(*               its conclusion is indeterminate. The more general notP can   *)
+(*               be used instead.                                             *)
+(*     contra == proof by contraposition. Assume the negation of the goal     *)
+(*               conclusion, and prove the negation of a given assumption.    *)
+(*               The defective form contra (which can also be written         *)
+(*               contrapose) expects the assumption to be pushed on the goal  *)
+(*               which thus has the form assumption -> conclusion.            *)
```
Comment (proux01) [inline classical/contra.v:27]: I would find
```suggestion
(*     contra == proof by contraposition. Change a goal of the form           *)
(*               assumption -> conclusion to ~ conclusion -> ~ assumption.    *)
```
easier to understand.

File: classical/contra.v [hunk 3]
```diff
@@ -0,0 +1,814 @@
...
+
+Fact or3_nPropP tP nP P tQ nQ Q tR nR R :
+  (~ [\/ nProp tP nP P, nProp tQ nQ Q | nProp tR nR R]) = [/\ nP, nQ & nR]. 
+Proof. by rewrite or3E notE and3E. Qed.
+Canonical or3_nProp tP nP P tQ nQ Q tR nR R :=
+  ProperNegatedProp (@or3_nPropP tP nP P tQ nQ Q tR nR R).
+
+Fact or4_nPropP tP nP P tQ nQ Q tR nR R tS nS S :
+  (~ [\/ nProp tP nP P, nProp tQ nQ Q, nProp tR nR R | nProp tS nS S])
+     = [/\ nP, nQ, nR & nS].
```
Comment (proux01) [inline classical/contra.v:292]: Not sure why there is `and5_nProp` above but no `or5_nProp` here

File: classical/contra.v [hunk 4]
```diff
@@ -0,0 +1,814 @@
...
+Proof. by rewrite or4E notE and4E. Qed.
+Canonical or4_nProp tP nP P tQ nQ Q tR nR R tS nS S :=
+  ProperNegatedProp (@or4_nPropP tP nP P tQ nQ Q tR nR R tS nS S).
+
+(******************************************************************************)
+(*   The andRHS tertiary structure used to simplify (~ (P -> False)) to P,    *)
+(* both here for the imply_nProp instance and for bounded_forall_nProp below. *)
+(* Because the andRHS instances match the Prop RETURNED by negatedProp they   *)
+(* do not need to expand definitions, hence do not need to use the wrapper    *)
+(* telescope pattern.                                         *)
```
Comment (proux01) [inline classical/contra.v:302]:
```suggestion
(* telescope pattern.                                                         *)
```

File: classical/contra.v [hunk 5]
```diff
@@ -0,0 +1,814 @@
...
+Fact inhabited_nPropP T : (~ inhabited T) = (T -> False).
+Proof. by rewrite inhabitedE notE. Qed.
+Canonical inhabited_nProp T := ProperNegatedProp (inhabited_nPropP T).
+
+(******************************************************************************)
+(* Rule 2: forall negation, including (T : Type) -> P statements.             *)
+(*   We use tertiary structures to recognize bounded foralls and simplify,    *)
+(* e.g., ~ forall x, P -> Q to exists2 x, P & ~ Q, or even exists x, P when   *)
+(* Q :=  False (as above for imply).                                          *)
+(*   As forall_body_nProp and forall_body_proper_nProp are telescopes   *)
```
Comment (proux01) [inline classical/contra.v:341]:
```suggestion
(*   As forall_body_nProp and forall_body_proper_nProp are telescopes         *)
```

File: classical/contra.v [hunk 6]
```diff
@@ -0,0 +1,814 @@
...
+(* over negatedProp and properNegatedProp, respectively, their instances *)
```
Comment (proux01) [inline classical/contra.v:342]:
```suggestion
(* over negatedProp and properNegatedProp, respectively, their instances      *)
```

File: classical/contra.v [hunk 7]
```diff
@@ -0,0 +1,814 @@
...
+Structure properNegatedForallBody b P nQ nR := ProperNegatedForallBody {
+  proper_negated_forall_body :> properNegatedProp nR; _ : and_def b P nQ nR}.
+Notation nBody b P nQ t nR x := (negatedForallBody b (P x) (nQ x) t (nR x)).
+
+(******************************************************************************)
+(* The explicit argument to fun_if is a workaround for a bug in the Coq       *)
+(* unification code that prevents default instances from ever matching match  *)
+(* constructs. Furthermore rewriting with ifE would not work here, because    *)
+(* the if_expr definition would be expanded by the eta expansion needed to    *)
+(* match the exists_nProp rule.                                            *)
```
Comment (proux01) [inline classical/contra.v:358]:
```suggestion
(* match the exists_nProp rule.                                               *)
```

File: CHANGELOG_UNRELEASED.md [hunk 8]
```diff
@@ -9,10 +9,195 @@
...
+
+- in `boolp.v`:
+  + tactic `eqProp`
+  + variant `BoolProp`
+  + lemmas `PropB`, `notB`, `andB`, `orB`, `implyB`, `decide_or`, `not_andE`,
+    `not_orE`, `orCA`, `orAC`, `orACA`, `orNp`, `orpN`, `or3E`, `or4E`, `andCA`,
+	 `andAC`, `andACA`, `and3E`, `and4E`, `and5E`, `implyNp`, `implypN`,
+	 `implyNN`, `or_andr`, `or_andl`, `and_orr`, `and_orl`, `exists2E`,
+	 `inhabitedE`, `inhabited_witness`
+
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:136]:
```suggestion
```

File: CHANGELOG_UNRELEASED.md [hunk 9]
```diff
@@ -9,10 +9,195 @@
...
+- in `normedtype.v`:
+  + definition `lower_semicontinuous`
+  + lemma `lower_semicontinuousP`
+
+- in `numfun.v`:
+  + lemma `patch_indic`
+
+- in `lebesgue_measure.v`
+  + lemma `lower_semicontinuous_measurable`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:187]:
```suggestion
```

File: CHANGELOG_UNRELEASED.md [hunk 10]
```diff
@@ -9,10 +9,195 @@
...
 
+- in `boolp.v`:
+  + tactic `eqProp`
+  + variant `BoolProp`
+  + lemmas `PropB`, `notB`, `andB`, `orB`, `implyB`, `decide_or`, `not_andE`,
+    `not_orE`, `orCA`, `orAC`, `orACA`, `orNp`, `orpN`, `or3E`, `or4E`, `andCA`,
+	 `andAC`, `andACA`, `and3E`, `and4E`, `and5E`, `implyNp`, `implypN`,
+	 `implyNN`, `or_andr`, `or_andl`, `and_orr`, `and_orl`, `exists2E`,
+	 `inhabitedE`, `inhabited_witness`
+
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:200]:
```suggestion
```

**Review by proux01 — APPROVED** [review]
Great, some nitpicking comments then let's merge.

File: classical/contra.v (hunk 3 above)
Comment (Tragicus) [reply classical/contra.v:292]: `or5` n'est pas défini, donc je suppose qu'on n'en a pas l'utilité.

File: classical/contra.v [hunk 11]
```diff
@@ -0,0 +1,884 @@
...
+(* exposes the constructive contents of the negated conclusion.               *)
+(*   The contra tactic also supports a limited form of the ':' discharge      *)
+(* pseudo tactical, whereby contra: <d-items> means move: <d-items>; contra.  *)
+(* The only <d-items> allowed are one term, possibly preceded by a clear      *)
+(* switch.                                                                    *)
+(******************************************************************************)
+
+Ltac contrapose :=
+  apply: Internals.contra_Type;
+  apply: contra_notP => /lax_witness.
```
Comment (proux01) [inline classical/contra.v:856]:
```suggestion
  apply: Internals.contra_notP => /Internals.lax_witness.
```
I'll fix that one, squash and merge.

File: classical/contra.v [hunk 12]
```diff
@@ -0,0 +1,814 @@
...
+
+Local Fact contra_Type {P Q S T} : (~ Q -> ~ P) -> wType P S -> wType Q T.
+Proof. by rewrite implyNN => P_Q /wTypeP/P_Q/T. Qed.
+
+Local Fact contra_notP tP tQ (nP nQ : Prop) P Q :
+  (nP -> nQ) -> (~ nProp tP nP P -> ~ nProp tQ nQ Q).
+Proof. by rewrite 2!lax_notE. Qed.
+
+End Internals.
+Import Internals.
```
[the remark this answers is not in the document]
Comment (proux01) [reply classical/contra.v:748]: Opened issue https://github.com/math-comp/analysis/issues/1157 to remember

**Comment by proux01** [comment]
Merging as soon as CI is happy.

**Comment by proux01** [comment]
Thanks!
